US05750471
Step A: 7-Chloro-1-ethyl-5-fluoro-4-hydrazino-1,3-dihydro-2,1-benzisothiazole 2,2-dioxide
To a suspension of 7-chloro-1-ethyl-5-fluoro-1,3-dihydro-2,1-benzisothiazol-4-amine 2,2-dioxide (0.5 g, 1.89 mmol) in water (3.1 mL) and H2SO4 (1.65 mL) at 0° was added NaNO2 (0.13 g, 1.89 mmol) in water (0.5 mL). The reaction mixture was stirred at 0° C for 1 h. A solution of SnCl2.H2O (0.85 g, 3.78 mmol) in conc. HCl (3.1 mL) was then added dropwise and the reaction mixture was stirred at room temperature for 12 h. Then 50% aqueous NaOH solution was added until the reaction mixture reached pH 13. The reaction mixture was extracted with ethyl acetate (200 mL) and the organic layer was washed with brine (3×50 mL) and dried (MgSO4). The solvent was removed and the title compound of Step A was isolated by flash chromatography. 1H NMR (CDCl3, 300 MHz): δ7.04 (d,1H), 5.62 (br s,1H), 4.62 (s,2H), 3.86 (m,2H), 1.26 (t,3H).

reactant | 7-chloro-1-ethyl-5-fluoro-1,3-dihydro-2,1-benzisothiazol-4-amine 2,2-dioxide | 1.89 mmol, 0.5 g | ClC=1C=C(C(=C2CS(N(C21)CC)(=O)=O)N)F | C9H10ClFN2O2S
reactant | NaNO2 | 1.89 mmol, 0.13 g | N(=O)[O-].[Na+]
reactant | SnCl2.H2O | 3.78 mmol, 0.85 g | Cl[Sn]Cl.O
reactant | NaOH | [OH-].[Na+]
solvent | water | 3.1 mL | O | H2O
solvent | H2SO4 | 1.65 mL | OS(=O)(=O)O | H2O4S
solvent | water | 0.5 mL | O | H2O
solvent | HCl | 3.1 mL | Cl | ClH
product | 7-Chloro-1-ethyl-5-fluoro-4-hydrazino-1,3-dihydro-2,1-benzisothiazole 2,2-dioxide | ClC1=CC(=C(C=2CS(N(C21)CC)(=O)=O)NN)F | C9H11ClFN3O2S
